US07244843B2
Preparation of (±)-1,3,4,10b-tetrahydro-2-methyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one
To a stirring solution of (±)-1,3,4,10b-tetrahydro-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (60 mg, 0.23 mmol) in water (1 mL) was added formic acid (0.22 mL, 5.9 mmol) and formaldehyde (190 mg, 2.3 mmol; 37% sol. in water). The reaction flask was sealed with a rubber septum (no nitrogen inlet) and warmed to 60° C. The reaction was maintained at this temperature for 24 h and was then cooled. The reaction was then diluted with saturated aqueous sodium bicarbonate, washed with ethyl acetate (3×50 mL), and the combined organic layers were dried over sodium sulfate, filtered, an concentrated. The resulting residue was purified by radial chromatography (2% ammonium hydroxide in 8% methanol in dichloromethane) to afford the desired product (33 mg, 52%) as a pale yellow residue. MS (ESI) 271.6 (M+H).

reactant | (±)-1,3,4,10b-tetrahydro-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.23 mmol, 60 mg | FC(C1=C2C(N3C(C2=CC=C1)CNCC3)=O)(F)F | C12H11F3N2O
reactant | formic acid | 5.9 mmol, 0.22 mL | C(=O)O | CH2O2
reactant | formaldehyde | 2.3 mmol, 190 mg | C=O | CH2O
solvent | water | 1 mL | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (±)-1,3,4,10b-tetrahydro-2-methyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 33 mg, 52% | CN1CC2N(C(C3=C(C=CC=C23)C(F)(F)F)=O)CC1 | C13H13F3N2O
